US07057042B2
2-[(4-phenyl-1-piperazinyl)methyl]furo[3,2-b]pyridine
The product from Example 35B, 1-phenylpiperazine, and sodium triacetoxyborohydride were processed as described in Example 35C to provide the title compound. 1H NMR (CDCl3, 300 MHz) δ 2.78 (br, 4H), 3.28 (br, 4H), 3.85 (s, 2H), 6.89 (m, 4H), 7.20 (dd, J=4.75, 8.14 Hz, 1H), 7.26 (m, 2H), 7.73 (d, J=8.14 Hz, 1H), 8.54 (br, 1H); MS (DCI/NH3) m/z 294.2 (M+H)+; Anal Calcd for C18H19N3O: C, 73.69; H, 6.53; N, 14.32. Found: C, 72.19; H, 6.43; N, 14.09.

reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 2-[(4-phenyl-1-piperazinyl)methyl]furo[3,2-b]pyridine | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC2=NC=CC=C2O1 | C18H19N3O
